### PR TITLE
[Merged by Bors] - feat: lemmas about LocallyIntegrable

### PR DESCRIPTION
**Pull request by fpvandoorn**
* Also lemmas about `IntegrableOn`, `IntegrableAtFilter` and `LocallyIntegrableOn`.
* Add some `@[gcongr]` tagging
* Some basic lemmas about `ae` (that are useful because their proofs abuse defeq)
* Used for Sobolev spaces

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 1]
```diff
@@ -1,5 +1,5 @@
 /-
-Copyright (c) 2022 Floris van Doorn. All rights reserved.
+Copyright (c) 2022 Focallyoris van Doorn. All rights reserved.
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]: You changed your first name!

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 2]
```diff
@@ -78,6 +79,37 @@ theorem LocallyIntegrableOn.mono {f : X → E} (hf : LocallyIntegrableOn f s μ)
...
+  refine ⟨u ∩ s, inter_mem (mem_nhdsWithin.mpr ⟨u, hu, hxu, inter_subset_left⟩) self_mem_nhdsWithin,
+    ?_⟩
+  refine hf.mono_set hut |>.mono_measure' ?_
+  simp_rw [← restrict_restrict hu.measurableSet]
+  gcongr
+
+@[gcongr]
+lemma LocallyIntegrableOn.mono_measure (hf : LocallyIntegrableOn f s μ) (h : ν ≤ μ) :
+    LocallyIntegrableOn f s ν :=
+  fun x hx => (hf x hx).mono_measure h
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]: \mapsto, please

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]: Oops!


```suggestion
Copyright (c) 2022 Floris van Doorn. All rights reserved.
```

**Review by grunweg — COMMENTED** [review]
Thanks! bors d+ (after fixing your name to your liking)

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean (hunk 2 above)
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
  fun x hx ↦ (hf x hx).mono_measure h
```
